US07825132B2
After all the 5-(4-methyl-piperazin-1-yl)-2-nitroaniline had disappeared from the reaction, the solution was purged with N2 for 15 minutes. The diamine intermediate is air sensitive so care was taken to avoid exposure to air. 500 g (2.56 mol) of ethyl 3-ethoxy-3-iminopropanoate hydrochloride was added to the reaction mixture over a period of about 30 minutes. The reaction was stirred at 45-55° C. (internal temperature) under N2 until the diamine was completely consumed as determined by HPLC. The typical reaction time was about 2 hours. After the reaction was complete, the reaction was filtered while warm through a pad of Celite. The reaction flask and Celite were then washed with 200 proof EtOH (3×285 mL). The filtrates were combined in a 5000 mL flask, and about 3300 mL of ethanol was removed under vacuum producing an orange oil. Water (530 mL) and then 1M HCL (350 mL) were added to the resulting oil, and the resulting mixture was stirred. The resulting solution was vigorously stirred while 30% NaOH (200 mL) was added over a period of about 20 minutes maintaining the internal temperature at about 25-30° C. while the pH was brought to between 9 and 10. The resulting suspension was stirred for about 4 hours while maintaining the internal temperature at about 20-25° C. The resulting mixture was filtered, and the filter cake was washed with H2O (3×300 mL). The collected solid was dried to a constant weight at 50° C. under vacuum in a vacuum oven providing 345.9 g (90.1%) of [6-(4-methyl-piperazin-1-yl)-1H-benzoimidazol-2-yl]-acetic acid ethyl ester as a pale yellow powder. In an alternative work up procedure, the filtrates were combined and the ethanol was removed under vacuum until at least about 90% had been removed. Water at a neutral pH was then added to the resulting oil, and the solution was cooled to about 0° C. An aqueous 20% NaOH solution was then added slowly with rapid stirring to bring the pH up to 9.2 (read with pH meter). The resulting mixture was then filtered and dried as described above. The alternative work up procedure provided the light tan to light yellow product in yields as high as 97%.

reactant | 5-(4-methyl-piperazin-1-yl)-2-nitroaniline | CN1CCN(CC1)C=1C=CC(=C(N)C1)[N+](=O)[O-] | C11H16N4O2
reactant | ethyl 3-ethoxy-3-iminopropanoate hydrochloride | 2.56 mol, 500 g | Cl.C(C)OC(CC(=O)OCC)=N
reactant | NaOH | 200 mL | [OH-].[Na+]
solvent | Water | 530 mL | O | H2O
product | [6-(4-methyl-piperazin-1-yl)-1H-benzoimidazol-2-yl]-acetic acid ethyl ester | 345.9 g, 90.1% | C(C)OC(CC1=NC2=C(N1)C=C(C=C2)N2CCN(CC2)C)=O | C16H22N4O2
